US04535171
8-Nitrodibenzo[b,f]thiepin-3-carboxaldehyde
Stir a mixture of the crude 8-nitrodibenzo[b,f]thiepin-3-carboxylic acid chloride in dry tetrahydrofuran at -78° C. under nitrogen, and add dropwise a filtered solution of 1.1 equivalents of lithium tri-tertiarybutoxy-aluminum hydride in tetrahydrofuran. Stir the mixture for 30 minutes at -78° C. and allow to warm to ambient temperature. Add the mixture to ice-cold dilute hydrochloric acid, and isolate the product by extraction with chloroform. Purify the title compound by chromatography on silica gel using a mixture of ethyl acetate and toluene for elution.

reactant | 8-nitrodibenzo[b,f]thiepin-3-carboxylic acid chloride | [N+](=O)([O-])C=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C(=O)Cl)C1 | C15H8ClNO3S
reactant | lithium tri-tertiarybutoxy-aluminum hydride | 1.1 equivalents | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-Nitrodibenzo[b,f]thiepin-3-carboxaldehyde | [N+](=O)([O-])C=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C=O)C1 | C15H9NO3S
